US08008342B2
(vii) 2,6-Dichlorophenethyl alcohol
a suspension of lithium aluminum hydride (13.75 g, 365.75 mmol) in anhydrous diethyl ether (500 mL) was added via a powder addition funnel 2,6-dichlorophenylacetic acid (50 g, 243.75 mmol). The resulting reaction mixture was refluxed for 16 hours and then quenched by slow addition of a sodium sulfate saturated aqueous solution (25 mL). The resulting slurry was stirred for 3 hours and then filtered, the insoluble was carefully washed with diethyl ether (2×100 mL). The combined ether filtrates were dried over sodium sulfate and the solvent was evaporated in vacuo to yield 38.6 g (85% yield) of the title compound.

reactant | lithium aluminum hydride | 365.75 mmol, 13.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,6-dichlorophenylacetic acid | 243.75 mmol, 50 g | ClC1=C(C(=CC=C1)Cl)CC(=O)O | C8H6Cl2O2
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2,6-Dichlorophenethyl alcohol | 38.6 g, 85% yield | ClC1=C(CCO)C(=CC=C1)Cl | C8H8Cl2O
